US06492394B1
To a solution of O-tert-butyl-N-BOC-D-serine (4 g, 15.31 mmol), phthalimide (3.38 g, 22.9 mmol) and triphenyl phosphine (6.03 g, 22,9 mmol) in tetrahydrofuran (120 ml, anhydrous) was added diisopropyl azodicarboxylate (4.5 ml, 22.9 mmol). The mixture was stirred under nitrogen atmosphere over night. The tetrahydrofuran was removed on the roto-evaporator and the remainder was taken up in methylene chloride (60 ml) and loaded onto a flash silica gel column. Elution with ethyl acetate/hexanes (19%) gave tert-butyl-2(R)-[(tert-butoxycarbonyl)amino]-3-phthalimidopropionate (3.74 g) as a white powder.

reactant | O-tert-butyl-N-BOC-D-serine | 15.31 mmol, 4 g | C(C)(C)(C)OC[C@@H](NC(=O)OC(C)(C)C)C(=O)O | C12H23NO5
reactant | phthalimide | 22.9 mmol, 3.38 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenyl phosphine | 22,9 mmol, 6.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 22.9 mmol, 4.5 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | tert-butyl-2(R)-[(tert-butoxycarbonyl)amino]-3-phthalimidopropionate | 3.74 g | C(C)(C)(C)OC([C@@H](CN1C(C=2C(C1=O)=CC=CC2)=O)NC(=O)OC(C)(C)C)=O | C20H26N2O6
